US06825212B2
Preparation of 3-Amino-6-methoxy-2-[(phenylsulfonyl)methyl]-pyridine
A stirred mixture of 6-methoxy-3-nitro-2-[(phenylsulfonyl)methyl]-pyridine (6.17 g, 20.0 mmol) in methanol and concentrated HCl (50 mL) is treated with thin strips of tin foil (10.0 g, 84.2 mmol), heated at 60° C. for 20 h, and filtered hot. The filtrate is poured over ice and 2.5N aqueous NaOH, stirred for 0.5 h and filtered. The filtercake is air-dried to afford the title compound as a white solid 5.26 g (94% yield), identified by mass spectral and HNMR analyses.

reactant | 6-methoxy-3-nitro-2-[(phenylsulfonyl)methyl]-pyridine | 20.0 mmol, 6.17 g | COC1=CC=C(C(=N1)CS(=O)(=O)C1=CC=CC=C1)[N+](=O)[O-] | C13H12N2O5S
reactant | tin | [Sn] | Sn
solvent | methanol | CO | CH4O
solvent | HCl | 50 mL | Cl | ClH
product | 3-Amino-6-methoxy-2-[(phenylsulfonyl)methyl]-pyridine | 5.26 g, 94% yield | NC=1C(=NC(=CC1)OC)CS(=O)(=O)C1=CC=CC=C1 | C13H14N2O3S
